### PR TITLE
More Archimedean lemmas

### LINKED ISSUE #1377: Naming in `archimedean.v`
We (@proux01 @hoheinzollern) noticed that a couple of lemmas are probably not named ideally in
`archimedean.v`. This issue is to remember to take care about the problem later. 

More specifically,
`floorP` feels like it should be called `floor_def` because it is not an equivalence nor a `reflect`
predicate. Yet,`floor_def` is taken by another lemma that is not exactly the "definition" of `floor`.
Moreover, there is similar looking lemma `real_floor_itv`.
For reference:
```coq
Local Lemma floorP x :
  if x \is Rreal then (floor x)%:~R <= x < (floor x + 1)%:~R else floor x == 0.

Lemma floor_def x m : m%:~R <= x < (m + 1)%:~R -> floor x = m.

Lemma real_floor_itv x : x \is Num.real ->
  (Num.floor x)%:~R <= x < (Num.floor x + 1)%:~R.
```

Since we couldn't come up with good names and since the situation seems to require a deprecation step, we postpone any renaming to later.

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR adds some lemmas for `archiNumDomainType` and `archiRealDomainType` using `to_real` (also `to_nneg`) suggested by @CohenCyril (cf. https://github.com/math-comp/math-comp/issues/1377#issuecomment-2779452638).

Most of these lemmas for `floor` and `ceil` generalize existing lemmas requiring the `Num.real` condition on a variable. Since the names of these lemmas have the prefix `real_`, the names of their general versions replace it with `to_real_` for the moment. Similarly, some of the new lemmas for `truncn` have the prefix `to_nneg_`. (We probably need to think a bit more about the naming convention here.)

In the end, I didn't find `floorP`, `ceilP`, and `truncnP` stated using `spec` datatypes very useful (cf. https://github.com/math-comp/math-comp/issues/1377#issuecomment-2776253420). I keep their statements as comments for the moment.

**I suggest extensively testing the new lemmas in MCA before merging this PR.**

(Eventually) Fix #1377

##### Dependencies

- #1526

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/archimedean.v [hunk 1]
```diff
@@ -319,58 +358,96 @@ Qed.
...
 
+Lemma to_real_floorD1_gt x : to_real x < (floor x + 1)%:~R.
+Proof. by have/andP[] := to_real_floor_itv x. Qed.
+
 Lemma real_floorD1_gt x : x \is real_num -> x < (floor x + 1)%:~R.
 Proof. by case/real_floor_itv/andP. Qed.
 
-Lemma floor_def x m : m%:~R <= x < (m + 1)%:~R -> floor x = m.
+Lemma to_real_floor_idP x n :
+  reflect (floor x = n) (n%:~R <= to_real x < (n + 1)%:~R).
```
Comment (pi8027) [inline algebra/archimedean.v]: @affeldt-aist @proux01 @hoheinzollern To answer your question (https://github.com/math-comp/math-comp/issues/1377#issue-2955479172), `floor_def` and `real_floor_itv` are more or less the converses of each other. This lemma `to_real_floor_idP` (also `real_floor_idP` and `floor_idP` below) reformulates them using `reflect`.
However, `real_floor_idP` below does not nicely subsume `floor_def`, because the assumption `x \is Num.real` is deduced from `n%:~R <= x` in the proof of the latter.

Comment (pi8027) [reply algebra/archimedean.v]: (Now I think `floor_idP` is not the right name... `floor_itvP`?)

Comment (proux01) [reply algebra/archimedean.v]: `floor_itvP` sounds good

Comment (pi8027) [reply algebra/archimedean.v]: I renamed it to `(to_real_)floor_itvP`.

File: algebra/archimedean.v [hunk 2]
```diff
@@ -324,54 +364,95 @@ Qed.
...
+Proof. by move=> xr; move: (to_real_floor_itvP x n); rewrite to_realT. Qed.
+
+(* TODO1: rename to real_eq_floor? *)
+(* TODO2: add a general version using to_real, and derive (to_)real_floor_itvP from it *)
 Lemma real_floor_eq x n : x \is real_num ->
   (floor x == n) = (n%:~R <= x < (n + 1)%:~R).
+Proof. by move=> ?; apply/eqP/real_floor_itvP. Qed.
+
+(* TODO: rename? *)
+Lemma floor_def x n : n%:~R <= x < (n + 1)%:~R -> floor x = n.
```
Comment (pi8027) [inline algebra/archimedean.v]: Any opinion on the renaming of these lemmas? I think `real_floor_eq` should be called something like `real_eq_floor` or `real_eq_floor_itv`, cf., `meet_idPl` and `eq_meetl`.

Comment (pi8027) [reply algebra/archimedean.v]: IMO, `floor_def` is *almost* the definition of `floor`, but only for the case where `x \is real_num`.

File: algebra/archimedean.v [hunk 3]
```diff
@@ -51,25 +51,69 @@ Import Order.TTheory GRing.Theory Num.Theory.
...
-    forall x,
-      if x \is real_num then (floor x)%:~R <= x < (floor x + 1)%:~R
-      else floor x == 0;
+  floor_subproof : forall x, (floor x)%:~R <= to_real x < (floor x + 1)%:~R;
   ceil_subproof : forall x, ceil x = - floor (- x);
-  truncn_subproof : forall x, truncn x = if floor x is Posz n then n else 0;
+  truncn_subproof : forall x, truncn x = if 0 <= x then `|floor x|%N else 0%N;
   int_num_subproof : forall x, reflect (exists n, x = n%:~R) (int_num_subdef x);
   nat_num_subproof : forall x, reflect (exists n, x = n%:R) (nat_num_subdef x);
 }.
```
Comment (pi8027) [inline algebra/archimedean.v]: IMO, this new mixin should eventually replace the old one everywhere. So I propose naming it `NumDomain_hasFloorCeilTruncn_new`, renaming the old one to `NumDomain_hasFloorCeilTruncn_old`, and following the usual routine of deprecation. Any opinion?

Comment (CohenCyril) [reply algebra/archimedean.v]: maybe `truncn_abs_floor` as a suffix

File: algebra/archimedean.v [hunk 4]
```diff
@@ -326,54 +366,95 @@ Qed.
...
-  by apply: le_trans lefx; rewrite ler_int.
-by rewrite -ltzD1 -(ltr_int R); apply: le_lt_trans ltxf1.
+apply/idP/idP; last by rewrite -(ltr_int R); apply/le_lt_trans/to_real_floor_le.
+by rewrite -lezD1 -(ler_int R); apply/lt_ltP/to_real_floorD1_gt.
 Qed.
 
 Lemma real_floor_lt_int x n : x \is real_num -> (floor x < n) = (x < n%:~R).
+Proof. by rewrite to_real_floor_lt_int => /to_realT->. Qed.
+
+Lemma to_real_floor_itvP x n :
```
Comment (CohenCyril) [inline algebra/archimedean.v]: maybe `to_real_floor_eqP`?

File: algebra/archimedean.v (hunk 2 above)
Comment (CohenCyril) [reply algebra/archimedean.v]: Maybe just `floor_eq`

Comment (CohenCyril) [reply algebra/archimedean.v]: and `floor_default: x \isn't real_num -> floor x = 0`

Comment (pi8027) [reply algebra/archimedean.v]: @CohenCyril Am I right that your suggestion was to rename `(real_)floor_eq` to `(real_)eq_floor` and then rename `floor_def` to `floor_eq`? (We can do the latter renaming only after releasing MC 2.7.)

Comment (pi8027) [reply algebra/archimedean.v]: And I prefer to add `floor_default` in a subsequent PR.

File: algebra/archimedean.v [hunk 5]
```diff
@@ -753,10 +924,33 @@ Notation natrE := natrEtruncn (only parsing).
...
+Notation real_ceil_le_int_tmp := real_ceil_lez (only parsing).
+
+#[deprecated(since="mathcomp 2.7.0", use=real_floor_gez)]
+Notation real_floor_ge_int := real_floor_gez (only parsing).
+#[deprecated(since="mathcomp 2.7.0", use=real_floor_ltz)]
+Notation real_floor_lt_int := real_floor_ltz (only parsing).
+#[deprecated(since="mathcomp 2.7.0", use=real_ceil_lez)]
+Notation real_ceil_le_int := real_ceil_lez (only parsing).
+#[deprecated(since="mathcomp 2.7.0", use=real_ceil_gtz)]
+Notation real_ceil_gt_int := real_ceil_gtz (only parsing).
```
Comment (pi8027) [inline algebra/archimedean.v:900]: Following Cyril's suggestion during the meeting, I replaced `_int` with `z` in these names.

File: algebra/archimedean.v [hunk 6]
```diff
@@ -753,10 +924,33 @@ Notation natrE := natrEtruncn (only parsing).
...
+#[deprecated(since="mathcomp 2.7.0", use=real_eq_ceil)]
+Notation real_ceil_eq := real_eq_ceil (only parsing).
+#[deprecated(since="mathcomp 2.7.0", use=truncn_gen)]
+Notation truncn_ge_nat := truncn_gen (only parsing).
+#[deprecated(since="mathcomp 2.7.0", use=truncn_gtn)]
+Notation truncn_gt_nat := truncn_gtn (only parsing).
+#[deprecated(since="mathcomp 2.7.0", use=truncn_ltn)]
+Notation truncn_lt_nat := truncn_ltn (only parsing).
+#[deprecated(since="mathcomp 2.7.0", use=real_truncn_len)]
+Notation real_truncn_le_nat := real_truncn_len (only parsing).
```
Comment (pi8027) [inline algebra/archimedean.v]: Similarly, I replaced `_nat` with `n` here.

File: algebra/archimedean.v [hunk 7]
```diff
@@ -916,6 +1131,48 @@ End Theory.
 
 (* Factories *)
 
+HB.factory Record NumDomain_hasFloorCeilTruncn R & Num.NumDomain R := {
```
Comment (pi8027) [inline algebra/archimedean.v]: This was the mixin of the Archimedean structures before this PR, and this should be deprecated and eventually removed. What is the right suffix (like `_truncn_abs_floor`) for this one?

**Review by pi8027 — COMMENTED** [review]
I made some progress. I isolated the renaming of existing lemmas into the first commit. We can consider merging it first.

File: algebra/archimedean.v (hunk 6 above)
Comment (affeldt-aist) [reply algebra/archimedean.v]: Shouldn't the suffixes `_gen` and `_len` by `_geq` and `_leq` like in `ssrnat.v`?

Comment (pi8027) [reply algebra/archimedean.v]: I was hesitating between the two. To be honest, I don't know. @CohenCyril

Comment (pi8027) [reply algebra/archimedean.v]: For example, the way I would read `truncn_len` is: `truncn x` is less than or equal to `n`, for some `x` and natural number `n`. I'm unsure if we can read it in the same way if we replace `n` with `q`.

Comment (pi8027) [reply algebra/archimedean.v]: That being said, I think `_gen` and `_len` are confusing. What about `_ge(q)_n` and `_le(q)_n`?

Comment (pi8027) [reply algebra/archimedean.v]: After thinking about it twice, I decided to use `_leq` and `_geq`.

File: algebra/archimedean.v [hunk 8]
```diff
@@ -615,37 +777,49 @@ Proof.
...
+
 Lemma truncnK : {in nat_num, cancel truncn (GRing.natmul 1)}.
 Proof. by move=> x; rewrite natrEtruncn => /eqP. Qed.
 
 Lemma truncn0 : truncn 0 = 0%N. Proof. exact: natrK 0%N. Qed.
 Lemma truncn1 : truncn 1 = 1%N. Proof. exact: natrK 1%N. Qed.
 #[local] Hint Resolve truncn0 truncn1 : core.
 
-Lemma truncnD :
-  {in nat_num & nneg_num, {morph truncn : x y / x + y >-> (x + y)%N}}.
```
Comment (pi8027) [inline algebra/archimedean.v:632]: I renamed this to `truncnDnr` to introduce `truncnDrn`. I'm unsure if they are the right name since this `r` has to be non-negative.

**Review by pi8027 — COMMENTED** [review]
I think this PR is ready for another round of review. Currently, the first commit does all the renamings of existing lemmas, and the second commit does the other changes. Perhaps the former part can be merged quickly. (If it is the case, I will split the PR.)

File: algebra/archimedean.v (hunk 8 above)
Comment (pi8027) [reply algebra/archimedean.v:632]: Looking at `CONTRIBUTING.md` and `num_theory/`, the shorthand for `nneg_num` seems to be `wp` (weak positive ?). So they should probably be called `truncnDn(_)wp` and `truncnDwp(_)n`. Any opinion?

Comment (pi8027) [reply algebra/archimedean.v:632]: Another option is to use `D` as an infix symbol like `M` in `rMn`: `truncn_nDwp` and `truncn_wpDn`. But, we need to rename similar lemmas for `floor` and `ceil` too.

Comment (pi8027) [reply algebra/archimedean.v:632]: We can also postpone introducing `truncnDrn` to address this naming issue later.

**Comment by pi8027** [comment]
@CohenCyril @affeldt-aist @proux01 @hoheinzollern This PR is waiting for review.

**Comment by proux01** [comment]
I'll do it but this may take me a bit of time to get to it.

File: algebra/archimedean.v (hunk 8 above)
Comment (pi8027) [reply algebra/archimedean.v:632]: We decided to rename this to `truncnDnr`: https://github.com/math-comp/math-comp/wiki/Minutes-2026%E2%80%9005%E2%80%9027

File: algebra/archimedean.v (hunk 7 above)
Comment (pi8027) [reply algebra/archimedean.v]: We decided to eventually remove this old factory. Its name `NumDomain_hasFloorCeilTruncn` will be taken by the new one. https://github.com/math-comp/math-comp/wiki/Minutes-2026%E2%80%9005%E2%80%9027

File: algebra/archimedean.v [hunk 9]
```diff
@@ -196,20 +201,12 @@ Local Notation ceil := (@ceil R).
...
-  else floor x == 0.
-Proof. exact: floor_subproof. Qed.
-
 Lemma floorNceil x : floor x = - ceil (- x).
 Proof. by rewrite ceil_subproof !opprK. Qed.
 
 Lemma ceilNfloor x : ceil x = - floor (- x).
 Proof. exact: ceil_subproof. Qed.
 
-Lemma truncEfloor x : truncn x = if floor x is Posz n then n else 0.
```
Comment (hoheinzollern) [inline algebra/archimedean.v:210]: Shouldn't you write:
```
if 0 <= x then `|floor x|%N else 0%N;
```
like in `truncn_subproof`

File: algebra/archimedean.v [hunk 10]
```diff
@@ -513,98 +583,148 @@ Qed.
...
+apply/to_real_ceil_eqP; rewrite addrK; have := to_real_floor_itv x.
+by rewrite to_realT// le_eqVlt -intrEfloor Ix /= => /andP[-> /ltW].
 Qed.
 
 (* Relating Cnat and oldCnat. *)
 
 Lemma truncn_floor x : truncn x = if 0 <= x then `|floor x|%N else 0%N.
+Proof. exact: truncn_subproof. Qed.
+
+Lemma truncEfloor x : truncn x = if floor x is Posz n then n else 0.
```
Comment (hoheinzollern) [inline algebra/archimedean.v:624]: Same as above?

File: algebra/archimedean.v [hunk 11]
```diff
@@ -916,6 +1094,61 @@ End Theory.
...
+  ceil  : R -> int;
+  truncn : R -> nat;
+  int_num_subdef : pred R;
+  nat_num_subdef : pred R;
+  floor_subproof :
+    forall x,
+      if x \is real_num then (floor x)%:~R <= x < (floor x + 1)%:~R
+      else floor x == 0;
+  ceil_subproof : forall x, ceil x = - floor (- x);
+  truncn_subproof : forall x, truncn x = if floor x is Posz n then n else 0;
```
Comment (hoheinzollern) [inline algebra/archimedean.v:1109]: Same change as above?

**Comment by pi8027** [comment]
@affeldt-aist FYI, this PR breaks infotheo. However, I won't fix it.

File: algebra/archimedean.v [hunk 12]
```diff
@@ -326,54 +323,87 @@ Qed.
...
-Proof. by case: ifP (floorP x). Qed.
+Proof. by move=> xr; have := to_real_floor_itv x; rewrite to_realT. Qed.
+
+#[deprecated(since="mathcomp 2.7.0", use=to_real_floor_itv)]
+Local Lemma floorP x :
+  if x \is real_num then (floor x)%:~R <= x < (floor x + 1)%:~R
+  else floor x == 0.
+Proof.
+have := to_real_floor_itv x; rewrite /num_to_real; case: ifP => //= _.
+by rewrite lerz0 ltr0z addrC ltz1D -eq_le.
```
Comment (hoheinzollern) [inline algebra/archimedean.v]:
```suggestion
by rewrite lerz0 ltr0z ltzD1 -eq_le.
```

File: algebra/archimedean.v (hunk 10 above)
Comment (pi8027) [reply algebra/archimedean.v:624]: Note that this lemma already exists in the `master` branch. I moved the lemma, but the statement is unchanged. Changing it would require deprecation.

**Review by hoheinzollern — APPROVED** [review]
Apart from the open comments, the PR looks good to me.

File: algebra/archimedean.v (hunk 11 above)
Comment (pi8027) [reply algebra/archimedean.v:1109]: This is a deprecated factory that acts as the compatibility layer for the old `NumDomain_hasFloorCeilTruncn` mixin. So, we should not change it.

File: algebra/archimedean.v (hunk 10 above)
Comment (pi8027) [reply algebra/archimedean.v:624]: And, since this PR has been open for 6 months, I would rather do the suggested change in another PR.

**Comment by hoheinzollern** [comment]
Of course, it needed rebase (now done) and docs.

**Comment by pi8027** [comment]
I added changelog entries.

@CohenCyril @proux01 Could you double-check and merge this PR after the release of MC 2.6? It targets MC 2.7, and I won't change it to 2.6. (I'm against to merge any PR in a rush before a release.)
